US08084448B2
A. 2-Bromomethylbenzoic Acid Ethyl Ester
To a solution of 2-methylbenzoic acid ethyl ester (16.4 g, 99.87 mmol) in CCl4 (100 mL) is added N-bromosuccinimide (17.8 g, 100 mmol) and 2,2′-azobisisobutyronitrile (3.28 g, 19.97 mmol). The resulting mixture is heated at reflux for 2 h. After the mixture is cooled to RT, the solid is filtered off and the filtrate is concentrated and extracted with EtOAc. The EtOAc solution is washed with brine and dried over MgSO4, filtered and concentrated to afford the title compound as a pale yellow oil.

reactant | 2-methylbenzoic acid ethyl ester | 99.87 mmol, 16.4 g | C(C)OC(C1=C(C=CC=C1)C)=O | C10H12O2
reactant | N-bromosuccinimide | 100 mmol, 17.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 19.97 mmol, 3.28 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethylbenzoic Acid Ethyl Ester | C(C)OC(C1=C(C=CC=C1)CBr)=O | C10H11BrO2
